US04208343
A solution of 5.51 g. (0.05 mole) of 1,4 benzenediol in 100 ml. of water was stirred under nitrogen while a solution of 6.47 g. (0.10 mole) of potassium hydroxide (86.5%) in 20 ml. of water was added, followed by 200 ml. of toluene. The mixture was refluxed with stirring, using a Dean-Stark trap, until the water was largely removed. Dimethylacetamide (200 ml.) was then added, and solvent was distilled off until the pot temperature reached 150° C. The mixture was cooled to 50° C., and a solution of 18.26 g. (0.10 mole) of 5-chloro-2-nitro-benzonitrile (Aldrich Chemical Co.) in 50 ml. of dimethylacetamide was added with stirring. The mixture was stirred for 90 minutes at room temperature, 2 hrs. at 125° C., and 1 hr. at 155° C. After cooling to room temperature it was filtered. The filtrate was evaporated to dryness and the residue washed with 250 ml. of tetrahydrofuran. The residual solid was dried in vacuum at 100° C. to give 11.64 g. (58% yield) of hydroquinone bis(4-nitro-3-cyanophenyl) ether, m.p. 233° C. Anal: Calculated for C20H10N4O6 : C, 59.71; H, 2.51; N, 13.92; O, 23.86. Found: C, 59.27, 59.42; H, 2.85, 2.75; N, 13.81, 13.60; O, 24.18, 23.92. An additional 1.48 g. (7.4% yield) of product was recovered from the tetrahydrofuran washings.

reactant | 1,4 benzenediol | 0.05 mole | C1(=CC=C(C=C1)O)O | C6H6O2
reactant | water | O | H2O
reactant | potassium hydroxide | 0.10 mole | [OH-].[K+]
reactant | 5-chloro-2-nitro-benzonitrile | 0.10 mole | ClC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C7H3ClN2O2
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | hydroquinone bis(4-nitro-3-cyanophenyl) ether | 58% yield | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=CC=C(OC2=CC(=C(C=C2)[N+](=O)[O-])C#N)C=C1)C#N | C20H10N4O6
